US04591584
(a) Methyl 2-hydroxy-4-nitrobenzoate
2-hydroxy-4-nitrobenzoic acid (25 g) was dissolved in 100 ml of methanol and sulfuric acid (11 ml, density 1.84). The solution was boiled for 24 hrs, whereupon it was poured onto ice water and extracted with chloroform. The chloroform phase was shaken against sodium hydrogen carbonate solution, dried with magnesium sulfate and evaporated. The product was crystallized from methanol. Yield: 21 g.

reactant | 2-hydroxy-4-nitrobenzoic acid | 25 g | OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H5NO5
reactant | methanol | 100 ml | CO | CH4O
solvent | sulfuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-hydroxy-4-nitrobenzoate | OC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
